US05256666
A solution of 51 g of dimethyl-(4-ethoxyphenyl)-chlorosilane in 100 ml of absolute diethyl ether is added dropwise to a suspension of 2.55 g of lithium aluminum hydride in 30 ml of absolute diethyl ether under nitrogen at 15°-20° C. Stirring is carried out for 1 hour at 20° C., followed by refluxing for 1 hour. The reaction solution is cooled to 20° C. and poured into 200 ml of 2N sulfuric acid. The phases are separated and, after the aqueous phase has been washed several times with diethyl ether, the organic phases are combined and are evaporated down in a rotary evaporator. Distillation of the residue gives 29.0 g of dimethyl-(4-ethoxyphenyl)-silane (bp. 53° C./0.2 mbar).

reactant | dimethyl-(4-ethoxyphenyl)-chlorosilane | 51 g | C[Si](Cl)(C1=CC=C(C=C1)OCC)C | C10H15ClOSi
reactant | lithium aluminum hydride | 2.55 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulfuric acid | 2N, 200 ml | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | dimethyl-(4-ethoxyphenyl)-silane | 29.0 g | C[SiH](C1=CC=C(C=C1)OCC)C | C10H16OSi
